US06358980B1
4-(4-But-2-ynyloxy-benzenesulfonyl)-1-(4-chloro-benzyl)-piperdine-4-carboxylic acid ethyl ester was prepared according to the general method as outlined in Example 1 (Step 6). Starting from (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester (4 g, 13.5 mmol) and (4-chloro-benzyl)-bis-(2-chloro-ethyl)-amine (4.9 g, 16.2 mmol). Yield 3.5 g (53%); white crystals; MP 91.8° C.; MS: 490 (M+H)+

reactant | (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester | 13.5 mmol, 4 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C14H16O5S
reactant | (4-chloro-benzyl)-bis-(2-chloro-ethyl)-amine | 16.2 mmol, 4.9 g | ClC1=CC=C(CN(CCCl)CCCl)C=C1 | C11H14Cl3N
product | 4-(4-But-2-ynyloxy-benzenesulfonyl)-1-(4-chloro-benzyl)-piperdine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)Cl)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C25H28ClNO5S
